US07939521B2
To a solution of 2-[3-(3-chloropropionylamino)phenyl]propionitrile (0.654 g, 2.77 mmol) in CH2Cl2 (8 mL) at 0° C. AlCl3, (1.10 g, 8.31 mmol) was added portionwise. The reaction mixture was stirred 5 min, then was refluxed 8 h. After cooling at 0° C., the mixture was washed with 6N HCl solution (3×10 mL), water (3×10 mL) and brine (2×10 mL). After drying over Na2SO4 and solvent evaporation a crude residue was obtained that, after flash chromatography (eluent mixture n-hexane/EtOAc 85:15), afforded 2-(2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl]propionitrile as yellow oil (0.345 g, 1.72 mmol). Yield 62%.

reactant | 2-[3-(3-chloropropionylamino)phenyl]propionitrile | 2.77 mmol, 0.654 g | ClCCC(=O)NC=1C=C(C=CC1)C(C#N)C | C12H13ClN2O
reactant | AlCl3 | 8.31 mmol, 1.10 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl]propionitrile | 1.72 mmol, 0.345 g, Yield 62% | O=C1NC2=CC(=CC=C2CC1)C(C#N)C | C12H12N2O
